US07576215B2
4-{3-[(2-FLUOROBENZYL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBOXYLIC ACID
The title compound was prepared from ethyl 4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinoline-3-carboxylate and 2-fluorobenzyl bromide according to the procedure of Example 41. MS (ES) m/z 439.9.

reactant | ethyl 4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinoline-3-carboxylate | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)OCC | C19H14F3NO3
reactant | 2-fluorobenzyl bromide | FC1=C(CBr)C=CC=C1 | C7H6BrF
product | 4-{3-[(2-FLUOROBENZYL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBOXYLIC ACID | FC1=C(COC=2C=C(C=CC2)C2=C(C=NC3=C(C=CC=C23)C(F)(F)F)C(=O)O)C=CC=C1 | C24H15F4NO3
